US06423713B1
1-(4-fluorophenyl)-2-(4-pyridyl)-1-ethanone
4-picoline (40 g, 0.43 mol) was added to a LiHMDS solution (0.45 mol, 450 mL of a 1.0 M solution in THF) over 30 minutes at room temperature (a slight exotherm was observed) The resulting solution was stirred for 1 h. This solution was added to ethyl 4-fluorobenzoate (75.8 g, 0.45 mol. neat) over 1 h. The mixture was stirred overnight (16 h). Water (200 mL) was added and the mixture was extracted with EtOAc (2×200 mL). The organic layer was washed with brine (1×200 mL) and dried over Na2SO4. The organic layer was filtered and the solvent waS removed to leave oily solid. Hexane was added to the oil and the resulting solid was filtered and washed with hexane (cold). A yellow solid was isolated (50 g, 54%): 1H NMR (CDCl3) δ8.58 (d, J=5.7 Hz, 2H), 8.02 (dd, J=5.5, 8.0, 2H), 7.12-7.21 (m, 4H), 4.23 (s, 2H); 19F NMR (CDCl3) δ−104.38 (m); LC/MS, tr=2.14 minutes (5 to 95% acetonitrile/water over 15 minutes at 1 mL/min, at 254 nm at 50° C.), M+H=216; High Resolution MS Calcd for C23H20N4O2F (M+H): 216.0825. Found: 216.0830 (Δ mmu=0.5).

reactant | 4-picoline | 0.43 mol, 40 g | N1=CC=C(C=C1)C | C6H7N
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 4-fluorobenzoate | 0.45 mol, 75.8 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | Water | 200 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | acetonitrile water | C(C)#N.O
solvent | Hexane | CCCCCC | C6H14
product | 1-(4-fluorophenyl)-2-(4-pyridyl)-1-ethanone | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C13H10FNO
